US06492401B1
A solution of dimethyl 2-phenyl-2H-1,2,3-triazole-4,5-dicarboxylate (0.522 g, 2.00 mmol) in methanol (40 mL) at 23° C. was treated with a solution of KOH (0.236 g, 4.20 mmol) in methanol (5 mL). The resulting solution was stirred at 23° C. for 17 h and partitioned between NaHCO3 (sat. aq. sol.) and ether. The aqueous layer was washed with ether and acidified carefully to pH 1 with HCl (conc.). The resulting mixture, was extracted with EtOAc. The organic extract was washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by radial chromatography (2 mm plate, CH2Cl2-methanol-acetic acid 90:10:1) to afford 0.42 g (85%) of 5-methoxycarbonyl-2-phenyl-2H-1,2,3-triazole-4carboxylic acid.

reactant | dimethyl 2-phenyl-2H-1,2,3-triazole-4,5-dicarboxylate | 2.00 mmol, 0.522 g | C1(=CC=CC=C1)N1N=C(C(=N1)C(=O)OC)C(=O)OC | C12H11N3O4
reactant | KOH | 4.20 mmol, 0.236 g | [OH-].[K+]
solvent | methanol | 40 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | 5-methoxycarbonyl-2-phenyl-2H-1,2,3-triazole-4carboxylic acid | 0.42 g, 85% | COC(=O)C=1C(=NN(N1)C1=CC=CC=C1)C(=O)O | C11H9N3O4
